US05166347
Isopropyl N-cyano-3-pyridinecarboximidate (0.50 g, 2.6 mmol) was dissolved in methanol (10 ml), and 2,2-diphenylethylamine (0.58 g, 2.9 mmol) was added. The mixture was stirred at room temperature for 2 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate thus obtained was subjected to chromatography on a silica gel column (WAKO GEL C 200, 30 g) eluting with chloroform-methanol (100:1). The eluted fractions were concentrated under reduced pressure to give N-cyano-N'-(2,2-diphenylethyl)-3-pyridinecarboximidamide (0.61 g, 1.9 mmol, yield: 71%) as colorless syrup. Next, to this syrup was added a 5% hydrogen chloride solution in methanol (2.5 ml). The solution was crystallized from methanol-diethyl ether to give N-cyano-N'-(2,2-diphenylethyl)-3-pyridinecarboximidamide hydrochloride as colorless powder.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 2.6 mmol, 0.50 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 2,2-diphenylethylamine | 2.9 mmol, 0.58 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(2,2-diphenylethyl)-3-pyridinecarboximidamide | 1.9 mmol, 0.61 g, yield: 71% | C(#N)NC(=NCC(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=NC=CC1 | C21H18N4
